US05750523
4-bromo-6-[3-(4-chlorophenyl)-3-hydroxypropyloxy]-5-(3,4- dimethoxybenzylamino)-3(2H)pyridazinone (Compound No. 2)
From 300 mg of 4,5-dibromo-6-[3-(4-chlorophenyl)-3- hydroxypropyloxy]-3(2H)pyridazinone, 228 mg of 3,4-dimethoxybenzylamine and 69 mg of triethylamine, 246 mg of the title compound was prepared in the same manner as in Example 1, as white crystals having a melting point of 190°-196° C.

reactant | 4,5-dibromo-6-[3-(4-chlorophenyl)-3- hydroxypropyloxy]-3(2H)pyridazinone | 300 mg | BrC=1C(NN=C(C1Br)OCCC(O)C1=CC=C(C=C1)Cl)=O | C13H11Br2ClN2O3
reactant | 3,4-dimethoxybenzylamine | 228 mg | COC=1C=C(CN)C=CC1OC | C9H13NO2
solvent | triethylamine | 69 mg | C(C)N(CC)CC | C6H15N
product | 4-bromo-6-[3-(4-chlorophenyl)-3-hydroxypropyloxy]-5-(3,4- dimethoxybenzylamino)-3(2H)pyridazinone | 246 mg | BrC=1C(NN=C(C1NCC1=CC(=C(C=C1)OC)OC)OCCC(O)C1=CC=C(C=C1)Cl)=O | C22H23BrClN3O5
